US08476449B2
Synthesis of (Z)-ethyl-2-(4-oxo-2-thioxo-5-((5-(3-(tributylstannyl)phenyl)furan-2-yl)methylene)thiazolidin-3-yl)acetate (labeling precursor 1)
5-(3-(Tributylstannyl)phenyl)furan-2-carbaldehyde (7 mg, 0.015 mmol) and ethyl-2-(4-oxo-2-thioxothiazolidin-3-yl)acetate (3.5 mg, 0.016 mmol) synthesized by the same method as in Example 1 were dissolved in dichloromethane (2 mL), piperidine (5 μL) was added thereto, and the mixture was stirred at room temperature (25° C.) overnight. After the reaction was completed the solvent was removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using ethyl acetate/hexane (3/7 (volume ratio)) as an eluent, to give labeling precursor 1 in a yield of 6 mg (yield 56.6%).

reactant | 5-(3-(Tributylstannyl)phenyl)furan-2-carbaldehyde | 0.015 mmol, 7 mg | C(CCC)[Sn](C=1C=C(C=CC1)C1=CC=C(O1)C=O)(CCCC)CCCC
reactant | ethyl-2-(4-oxo-2-thioxothiazolidin-3-yl)acetate | 0.016 mmol, 3.5 mg | C(C)OC(CN1C(SCC1=O)=S)=O | C7H9NO3S2
reactant | piperidine | 5 μL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (Z)-ethyl-2-(4-oxo-2-thioxo-5-((5-(3-(tributylstannyl)phenyl)furan-2-yl)methylene)thiazolidin-3-yl)acetate | C(C)OC(CN1C(S\C(\C1=O)=C/C=1OC(=CC1)C1=CC(=CC=C1)[Sn](CCCC)(CCCC)CCCC)=S)=O | InChI=1S/C18H14NO4S2.3C4H9.Sn/c1-2-22-16(20)11-19-17(21)15(25-18(19)24)10-13-8-9-14(23-13)12-6-4-3-5-7-12;3*1-3-4-2;/h3-4,6-10H,2,11H2,1H3;3*1,3-4H2,2H3;/b15-10-;;;;
